US07405210B2
5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (2-oxo-2-phenylethyl)amide
5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (Preparation 57, 50 mg, 0.25 mmol), 2-aminoacetophenone hydrochloride (48 mg, 0.28 mmol) and DMTMM (85 mg, 0.31 mmol) were dissolved in THF (5 mL) and 4-methylmorpholine (31 μL, 0.28 mmol). The reaction mixture was stirred at rt for 16 h. The solvent was removed in vacuo and the residue partitioned between water (20 mL) and EtOAc (3×20 mL). The combined organics were dried (MgSO4), concentrated in vacuo and purified by chromatography on silica gel eluting with methanol:dichloromethane (1:19) to give the title compound. m/z (ES+)=314 [M+H]+; RT=3.47 min.

reactant | 5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 0.25 mmol, 50 mg | ClC=1C=C2C(=NC1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-aminoacetophenone hydrochloride | 0.28 mmol, 48 mg | Cl.NCC(=O)C1=CC=CC=C1
reactant | DMTMM | 0.31 mmol, 85 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | 4-methylmorpholine | 0.28 mmol, 31 μL | CN1CCOCC1 | C5H11NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (2-oxo-2-phenylethyl)amide | O=C(CNC(=O)C1=CC=2C(=NC=C(C2)Cl)N1)C1=CC=CC=C1 | C16H12ClN3O2
